* ============================================================================
* 808 Hi Tom — Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: Single bridged-T Sallen-Key resonator + inverting output
* buffer.  Same behavioral state-space approach as 808_kick.spice.
*
* COMPONENT IDENTITY NOTE: 808_hi_tom.pedal uses the same R/C/Q values as
* 808_tom.pedal (R1=R2=220kΩ, C1=C2=4.7nF, R_fb=750kΩ).  The difference
* is their role in the TR-1000 voice hierarchy and their internal pedal name
* ("808 Hi Tom" vs "808 Mid Tom").  The SPICE golden is therefore identical
* in resonant behavior.  This is documented faithfully; if the pedal files
* are updated with different component values, both SPICE decks must be
* regenerated independently.
*
* PARAMETERS (from 808_hi_tom.pedal — pedalkernel-pro, private):
*   R1 = R2 = 220kΩ, C1 = C2 = 4.7nF
*   f0 = 1 / (2π·220k·4.7n) = 153.8 Hz
*   WHY: 808_hi_tom.pedal comment notes the target is ~180 Hz (TR-808 HT),
*   and that WDF loading from the 100k bias divider raises the apparent
*   resonance from the textbook 154 Hz toward 180 Hz.  The same R=220k
*   component value is used in both 808_tom.pedal and 808_hi_tom.pedal.
*   r_crit = 220k+220k+220k = 660kΩ
*   R_fb = 750kΩ  →  Q = 750 / (750−660) = 8.33
*   zeta = 1/(2·Q) = 0.0600
*   omega0 = 2π·153.8 = 966.5 rad/s
*   2·zeta·omega0 = 115.98
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* VERIFIED: f0 = 153.8 Hz (theory), Q = 8.33
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 966.5

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -966.5

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -115.98

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 966.5

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
